US07326799B2
Synthesis of 1-[N-(morpholine-4-carbonyl)amino]cyclohexanecarboxylic Acid
In methanol was suspended 151 g (452 mmol) of phenylmethyl 1-[N-(morpholine-4-carbonyl)amino]cyclohexanecarboxylate, 15 g of 5% palladium-active carbon was added to the suspension and the mixture was stirred under hydrogen stream at room temperature overnight. After removing the catalyst by filtration, the catalyst was washed three times with a mixed solvent of chloroform-methanol, and the organic layers were combined and the solvent was distilled off under reduced pressure to obtain 112 g (Yield: 100%) of the title compound.

reactant | phenylmethyl 1-[N-(morpholine-4-carbonyl)amino]cyclohexanecarboxylate | 452 mmol, 151 g | N1(CCOCC1)C(=O)NC1(CCCCC1)C(=O)OCC1=CC=CC=C1 | C19H26N2O4
solvent | methanol | CO | CH4O
catalyst | palladium | 15 g | [Pd] | Pd
product | 1-[N-(morpholine-4-carbonyl)amino]cyclohexanecarboxylic Acid | 112 g, Yield: 100% | N1(CCOCC1)C(=O)NC1(CCCCC1)C(=O)O | C12H20N2O4
